US08877774B2
Step 5. 3-(1,3-Dioxolan-2-yl)propyl 4-(5-((3-(((tert-butoxycarbonyl)amino)(phenyl)-methyl)phenoxy)methyl)-1,2,4-oxadiazol-3-yl)benzoate
To a solution of 2-(3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)phenoxy)-acetic acid (0.087 g. 0.34 mmol) and 3-(1,3-dioxolan-2-yl)propyl 4-(N′-hydroxy-carbamimidoyl)benzoate (0.10 g, 0.28 mmol) in acetonitrile (1 mL), was added 1-ethyl-3-(3-dimethyllaminopropyl)carbodiimide hydrochloride (0.087 g, 0.42 mmol). The reaction mixture was stirred at ambient temperature for 16 hours. The reaction mixture was diluted with pyridine and heated at 150° C. for 30 minutes in a microwave. The reaction was diluted with saturated brine and extracted with ethyl acetate (×3). The combined organic fractions were dried with magnesium sulfate, and the solvent evaporated at reduced pressure. The material was used directly in the next step without further purification (0.142 g, 87%).

reactant | 2-(3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)phenoxy)-acetic acid | 0.34 mmol, 0.087 g | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC(=O)O)C=CC1)C1=CC=CC=C1 | C20H23NO5
reactant | 3-(1,3-dioxolan-2-yl)propyl 4-(N′-hydroxy-carbamimidoyl)benzoate | 0.28 mmol, 0.10 g | ON=C(N)C1=CC=C(C(=O)OCCCC2OCCO2)C=C1 | C14H18N2O5
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | brine | [Cl-].[Na+].O
product | 3-(1,3-Dioxolan-2-yl)propyl 4-(5-((3-(((tert-butoxycarbonyl)amino)(phenyl)-methyl)phenoxy)methyl)-1,2,4-oxadiazol-3-yl)benzoate | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC2=NC(=NO2)C2=CC=C(C(=O)OCCCC3OCCO3)C=C2)C=CC1)C1=CC=CC=C1 | C34H37N3O8
